data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2239,"CCC(C)C(C(=O)NC1CCCC1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2151,"C=CC(C)=O.CCOC(=O)C(CC(=O)OC)=C(C1=CC=CC=C1)C1=CC=CC=C1.COC(=O)C1=CCCCCC1=O.C[O:1][H:2].O=CC1=CC(C(F)(F)F)=CC(C(F)(F)F)=C1.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1434,"C=CC[B:1]1OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.CC1(C=[O:2])COC(C)(C)OC1|(2, 1)"
train,pmechdb_split_0,0,4838,"Cl[C:1](OCC1=CC=CC=C1)([NH3+:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5599,"C1CC[NH:1]CC1.CC(C)(C)C[C:2]([CH:3](C#N)[H:4])=[OH+:5].CC1=CC=C(C=[N+]2CCCCC2)C=C1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,8961,"FC(F)(F)C1=CC=C2C(=C1)C=C[CH:1]=[CH:2]2.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3168,"CCC[O+](COC)[B:1](F)F.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,7684,"CCC(C=O)(CCCNC(=O)CCl)CCC(=O)CC1=C([NH:1]C(=O)[O-])C=CC=C1.C[C+](C)C.O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8185,"CC1=CC=C(S(=O)(=O)OC(C)CC[O+:1]([Si-](C)(C)(C)Cl)[H:2])C=C1.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1679,"CC[O:1][CH:2](C1CCCCC1=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4535,"C1=CC=[N:1]C=C1.CCOC(=O)CC([O-])(Cl)[NH+:2](NC(N)=S)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4022,"C1CCOC1.CC1=CN=C(C2(O)CCC(=[O+:1][H:2])CC2)S1.OCCO.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4990,"ClC(Cl)(Cl)C=[O:1].ClC1=CC=CC=C1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9680,"CC=CC(C)[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1227,"CCO.NC1=NC(=[NH2+])C([C-:1](Cl)Cl)C=C1.[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4184,"CN(C)[C:1](=[CH2:2])[O-:3].[CH3:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1013,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.CCOC(=O)CC(O)(CC(=O)OCC)[O+:2](CCO)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4137,"CC#[C-:1].C[CH:2]=[N:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8299,"CS[C:1](C)([OH+:2]C)[O:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3864,"CCC1C=CC(O)C(CCCC#N)C1C(=O)N[N:1](C)C.O=C([O-])[O][K].[CH3:2][I:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7721,"CC(=O)[O:1][C:2](C)(C#N)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9583,"CC[OH:1].C[O+:2]=[CH:3]CC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5710,"C[C:1]1=C[Br+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1350,"COC(=O)C(C1=CC=CC=C1)([CH:1](C(=O)C1=CC=CC=C1)[Br:2])[O-:3].[OH+]=C([O][K])[O][K]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7378,"C[CH:1]([N:2](C)C)[Br:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3062,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2=CC=C([N+](=O)[O-])C=C2)C=C1.COC1=CC(C23CCCC(C2)[NH:3]CC3)=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2292,"N#[C-:1].N=C1C=CNC(=N)[NH+:2]1[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7870,"BrCCC[CH2:1][Br:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9021,"N#CC=[NH:1].N#[C:2][H:3].O.[C-]#N|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4148,"CC(C)N(C1=[O+][Li-2:1]([NH+:2](C(C)C)C(C)C)[C]2=C(C=CC=C2F)O1)C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,5385,"CC(=O)[O:1][H:2].CCOC(=O)C=CC1=C(C(O)[O:3]CCCO)C(F)=CC=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5320,"C1CC2[CH:1]3C1[CH:2]3[CH+:3]2.CC1=CC=C(S(=O)(=O)[O-])C=C1|((2, 1), 3)"
train,pmechdb_split_0,0,3713,"CC(=O)C(C(=O)N(CC1=CC=CC=C1)C(C)C)[NH+:1]=[C:2]1CC23CCN(C)C(CC4=C2C=CC=C4)C3(O)C[CH:3]1[H:4].CC(=O)[O-:5].O|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5738,"CCOC(C)C(C)(CC)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9657,"CC(O[B-](F)(F)F)=[O:1].CC[C+](C(C)=O)C(C)(C)[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,1988,"CCCCO[B:1](OCCCC)OC(C1=CC=CC=C1)C(C)C(=O)N1C(=O)OCC1CC1=CC=CC=C1.OO.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,8986,"CC(C)=CCC[C+:1](C)[C:2]1([H:3])CCC2(C)C1CCC1C3(C)CCC(O)C(C)(C)C3CCC12C|((2, 3), 1)"
train,pmechdb_split_0,0,4800,"CCNC(C)(C)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8747,"CCCCB(CCCC)[O:1]C(CCC1=CC=CC=C1)CC(=O)CC(OCC1=CC=C(OC)C=C1)C(C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3973,"CC(=O)CCC(C)(O)[NH+:1](C1=NC(Br)=CC=C1)[H:2].CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1210,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(CC2CC[C:1]([OH:2])([OH+:3]C)O2)C=CC(C)=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4119,"CCCCC[C:1](C1=C(O)C=CC=C1)=[O:2].O=C(O)C1CCC[NH:3]1.O=CC1=CC=C([N+](=O)[O-])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8258,"C[OH:1].C[Si-](C)(C)(Cl)[O+:2]=[C:3](C)[NH:4][H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,415,"CC1[C:1](C)(C)[OH+:2]1.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1631,"C=CC(=O)[O:1][C:2](C)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2566,"CC(=O)O.FC(F)(F)C1=CC=CC([NH2:1])=C1.O=C1NC2=C(C(C(F)(F)F)=CC=C2)[C:2]1=[O:3]|(1, 2);((2, 3), 3)"
